US04319916
3-Acetyl-5-(3-fluorophenyl)-1-methyl-4(1H)-pyridinone
A 1.5 g. portion of 1-(3-fluorophenyl)-2,4-pentanedione was reacted with 15 ml. of N,N-dimethylformamide dimethyl acetal, and then with 10 ml. of 40% aqueous methylamine as described in Example 4. The reaction mixture was then evaporated under vacuum to dryness, and the crude product was chromatographed on a silica gel column with ethyl acetate to obtain 1 g. of the desired product, which was identified by nmr analysis in CDCl3, showing peaks at δ8.1-8.2 (m, 1H, pyridine); 6.9-7.6 (m, 5H, phenyl and 1 pyridine); 3.80 (s, 3H, N--CH3); 2.83 (s, 3H, COCH3).

reactant | 1-(3-fluorophenyl)-2,4-pentanedione | FC=1C=C(C=CC1)CC(CC(C)=O)=O | C11H11FO2
reactant | N,N-dimethylformamide dimethyl acetal | COC(N(C)C)OC | C5H13NO2
reactant | methylamine | CN | CH5N
product | 3-Acetyl-5-(3-fluorophenyl)-1-methyl-4(1H)-pyridinone | C(C)(=O)C1=CN(C=C(C1=O)C1=CC(=CC=C1)F)C | C14H12FNO2
